US08309562B2
2-Aminomethyl-N4-(4-methoxy-phenyl)-N4-methyl-quinazoline-4,6-diamine
2-Aminomethyl-N4-(4-methoxyphenyl)-N4-methylquinazoline-4,6-diamine bis(hydrochloride): (2-Aminomethyl-6-nitro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (120 mg, 0.35 mmol) was hydrogenated over 10% Pd/C in AcOH (5 mL) for 1 h. The suspension was filtered through Celite, washing with MeOH, and concentrated. The residue was suspended in CH2Cl2 and treated with Na2CO3. The mixture was then concentrated onto Celite and purified by gradient MPLC (amine column, MeOH/CH2Cl2, 0-100%). The residue was suspended in H2O and treated with excess 2 N HCl and lypholized, yielding 69.0 mg (52%) of the title compound. 1H NMR (DMSO-d6) δ 7.86 (d, 1H), 7.78 (dd, 1H), 7.42-7.50 (m, 2H), 7.12-7.20 (m, 2H), 6.74 (d, 1H), 4.62 (s, 2H), 3.93 (s, 3H), 3.92 (s, 3H); HRMS (ES) m/z calcd for C17H20N5O (M+H) 310.1662, found 310.1691.

reactant | 2-Aminomethyl-N4-(4-methoxyphenyl)-N4-methylquinazoline-4,6-diamine bis(hydrochloride) | Cl.Cl.NCC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)N
reactant | (2-Aminomethyl-6-nitro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.35 mmol, 120 mg | NCC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)[N+](=O)[O-] | C17H17N5O3
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
product | 2-Aminomethyl-N4-(4-methoxy-phenyl)-N4-methyl-quinazoline-4,6-diamine | 69.0 mg, 52% | NCC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)N | C17H19N5O
